US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one and piperidine with 4[2-(methylsulfonyl)aminoethylpiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-{4-[2-(methylsulfonyl)aminoethyl]-piperidin-1-yl}pentan-1-one hydrochloride, m.p. 205°-206° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2-(methylsulfonyl)aminoethylpiperidine | CS(=O)(=O)NCCN1CCCCC1 | C8H18N2O2S
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-{4-[2-(methylsulfonyl)aminoethyl]-piperidin-1-yl}pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)CCNS(=O)(=O)C)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C28H40ClN3O6S.ClH/c1-36-22-14-21(15-23(16-22)37-2)19-38-28-18-26(30)25(29)17-24(28)27(33)6-4-5-11-32-12-8-20(9-13-32)7-10-31-39(3,34)35;/h14-18,20,31H,4-13,19,30H2,1-3H3;1H
